US07235572B2
In analogy to the procedure described in example 2 c], [rac]-(6-{3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid tert-butyl ester was treated with LiOH to obtain [rac]-(6-{3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid as yellow oil.

reactant | [rac]-(6-{3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OC(CCC1OCCCO1)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C32H35F3N2O5S
reactant | LiOH | [Li+].[OH-]
product | [rac]-(6-{3-[1,3]dioxan-2-yl-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-propoxy}-indol-1-yl)-acetic acid | O1C(OCCC1)CCC(OC1=CC=C2C=CN(C2=C1)CC(=O)O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C28H27F3N2O5S
